US08377874B2
Step 3: Methyl (2,2-dimethylpent-4-en-1-yl)carbamate
A 1 L round-bottom flask under nitrogen was charged with 2,2-Dimethylpent-4-en-1-amine (9.86 g, 87 mmol), diisopropylethylamine (16.73 ml, 96 mmol), and DCM (100 mL) and cooled to 0° C. A solution of methyl chloroformate (7.08 mL, 91 mmol) in DCM (50 mL) was added dropwise. The reaction mixture was warmed to RT, stirred for 24 hours and poured into water. The mixture was extracted with EtOAc (3×). The combined organic portions were washed with brine, dried with anhydrous MgSO4 and filtered, and the solvent was removed from the filtrate by rotary evaporation. The crude product was purified by silica gel chromatography eluting with 70 hexane/30 EtOAc, to give the title compound. 1H NMR (CDCl3): δ 5.85-5.79 (m, 1H), 5.06-5.02 (m, 2H), 4.46 (s, 1H), 3.67 (s, 3H), 3.02-3.00 (m, 2H), 1.98-1.96 (m, 2H), 0.88 (s, 6H) ppm.

reactant | 2,2-Dimethylpent-4-en-1-amine | 87 mmol, 9.86 g | CC(CN)(CC=C)C | C7H15N
reactant | diisopropylethylamine | 96 mmol, 16.73 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl chloroformate | 91 mmol, 7.08 mL | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl (2,2-dimethylpent-4-en-1-yl)carbamate | CC(CNC(OC)=O)(CC=C)C | C9H17NO2
